US08957074B2
To a suspension of 3,6-dibromo-pyridazine (400 mg, 1.68 mmol) in 8 mL Toluene in a dry pressure tube were added 4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carbo-xylic acid tert-butyl ester (323 mg, 1.345 mmol), Pd2(dba)3 (154 mg, 0.168 mmol), xantphos (195 mg, 0.336 mmol) and NaOt-Bu (242 mg, 2.52 mmol) and the suspension was bubbled with N2 for 3 min. Then the tube was sealed and the mixture was heated for 3 h at 100° C. Then the seal was open and the mixture was added with more of Pd2(dba)3 (41 mg, 0.045 mmol), xantphos (52 mg, 0.091 mmol), NaOt-Bu (65 mg, 0.680 mmol) and 2-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (124 mg, 0.453 mmol). The mixture was again heated at 10° C. for 16 h and the suspension was filtered through a celite plug and washed with 10% MeOH in DCM. The collective filtrates were combined and purified by two consecutive SiO2 columns to give 3-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridazin-3-yl]-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester (66 mg, 0.112 mmol, 8% yield) as a white solid. MS m/z 590.6 (M+H)+.

reactant | 3,6-dibromo-pyridazine | 1.68 mmol, 400 mg | BrC=1N=NC(=CC1)Br | C4H2Br2N2
reactant | 4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carbo-xylic acid tert-butyl ester | 1.345 mmol, 323 mg | C(C)(C)(C)OC(=O)N1C2CNC(CC1CC2)=O | C12H20N2O3
reactant | xantphos | 0.336 mmol, 195 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | NaOt-Bu | 2.52 mmol, 242 mg | CC(C)(C)[O-].[Na+]
reactant | xantphos | 0.091 mmol, 52 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | NaOt-Bu | 0.680 mmol, 65 mg | CC(C)(C)[O-].[Na+]
reactant | 2-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.453 mmol, 124 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)N)N1C1CCCC1)C | C14H19N5O
solvent | Toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.168 mmol, 154 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.045 mmol, 41 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridazin-3-yl]-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | 0.112 mmol, 66 mg, 8% yield | C(C)(C)(C)OC(=O)N1C2CN(C(CC1CC2)=O)C=2N=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C30H39N9O4
